2190-03-03 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 43 year old male with recurrent sigmoid
   diverticulitis status-post laproscopic sigmoid colectomy, with fevers,
   leukocytosis, shortness of breath, and tachycardia, taken to the OR
   today for leak around anastamosis, now transfered to ICU for further
   management, remaining intubated.
   24 Hour Events:
 FEVER - 101.6
F - [**2190-3-2**] 10:00 PM
   Tachycardic
   Allergies:
   Halothane
   malignant hyper
   Last dose of Antibiotics:
   Vancomycin - [**2190-3-3**] 12:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-3**] 06:03 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-3-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-3-2**] 08:00 PM
   Fentanyl - [**2190-3-3**] 07:02 AM
   Other medications:
   Flowsheet Data as of  [**2190-3-3**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.7
C (99.9
   HR: 136 (118 - 142) bpm
   BP: 123/80(96) {103/64(77) - 174/97(122)} mmHg
   RR: 20 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.3 kg (admission): 101.6 kg
             Total In:
                                                                  5,930 mL
                                                                  1,643 mL
   PO:
             TF:
   IVF:
                                                                  5,430 mL
                                                                  1,643 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,530 mL
                                                                    665 mL
   Urine:
                                                                    575 mL
                                                                    285 mL
   NG:
                                                                    150 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                    235 mL
                                                                    130 mL
   Balance:
                                                                  4,400 mL
                                                                    978 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 700 (450 - 700) mL
   Vt (Spontaneous): 632 (510 - 632) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.45/39/131/25/3
   Ve: 10.2 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Labs / Radiology
   324 K/uL
   12.9 g/dL
   69
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   20 mg/dL
   103 mEq/L
   135 mEq/L
   36.9 %
   16.9 K/uL
        [image002.jpg]
                             [**2190-3-2**]  07:00 PM
                             [**2190-3-2**]  07:14 PM
                             [**2190-3-3**]  02:43 AM
                             [**2190-3-3**]  02:51 AM
                             [**2190-3-3**]  05:56 AM
                             [**2190-3-3**]  06:15 AM
   WBC
   11.5
   16.9
   Hct
   33.4
   36.9
   Plt
   298
   324
   Cr
   0.9
   1.1
   TCO2
   26
   29
   28
   Glucose
   151
   139
   119
   113
   110
   69
   Other labs: PT / PTT / INR:13.8/29.8/1.2, ALT / AST:15/25, Alk Phos / T
   Bili:47/1.7, Lactic Acid:1.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   Patient is a 43 year old male with recurrent sigmoid diverticulitis
   status-post laproscopic sigmoid colectomy, with fevers, leukocytosis,
   shortness of breath, and tachycardia, taken to the OR today for leak
   around anastamosis, now transfered to ICU for further management,
   remaining intubated.
   .
   #) Respiratory failure: Patient was kept intubated due to tachypnea
   post-operatively. Suspect this is multifactorial, but large role may be
   due to discomfort and splinting from pain, abdominal distension. He
   also had a large pleural effusion with probable atelectasis and
   prominent vessels with possible over hydration. Now weaned off
   sedation, on 5 peep, 5 pressure support. Good RSBI and tolerating SBT.
   - plan for extubation pending CXR
   .
   #) Sigmoid diverticulitis s/p lap sigmoidectomy and exploratory
   laporatory for leak ([**3-2**]): Two drains in place today for drainage
   after wash-out and repair.
   - Appreciate surgical co-management
   - Antibiotic coverage as noted below
   - Further drain, ostomy management per surgery
   - Pain control with nerve blocks (likely wearing off today), fentanyl
   boluses per surgery; zofran for nausea
   .
   #) Leukocytosis, fevers: Most likely source is intra-abdominal given
   known leak and observed fecal material in peritoneum. Monitoring for
   other possible sites of infection (blood, urine, pneumonia, no
   indwelling lines). Also monitoring for any evidence of evolving sepsis.
   - On vancomycin and zosyn
   - Follow up culture data
   - Monitoring fever curve, WBC trend
   - Monitoring lactate, urine output, BP trend for evidence of evolving
   sepsis
   .
   #) Hypertension: Initially was markedly hypertensive upon arrival to
   ICU, suspect this was secondary to discomfort. Has improved markedly
   after placement on propofol (SBP 120-130).
   -          Monitor trend, holding antihypertensives at present in event
   patient becomes septic.
   #) Tachycardia: persistently sinus tachy even with fluids. ? due to
   poor pain control.
   ICU Care
   Nutrition: NPO, lytes prn, bolus IVF prn
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-3-2**] 05:41 PM
   18 Gauge - [**2190-3-2**] 05:41 PM
   20 Gauge - [**2190-3-2**] 06:10 PM
   - 2 abdominal drains
   Prophylaxis:
   DVT: Pneumoboots, SC Heparin
   Stress ulcer: PPI
   VAP: bundle
   Communication:  Wife
   [**Name (NI) 129**] status: FULL
   Disposition: ICU
            1. Heparin 5000 UNIT SC BID  Order date: [**3-2**] @ 1730
   6. Metoclopramide 10 mg IV Q6H
   2. Insulin  DRIP  goal FS 80-120
   7. Ondansetron 4 mg IV Q6H:PRN nausea
   3. Chlorhexidine Gluconate 0.12% Oral Rinse 15ml [**Hospital1 **]
   8. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   4. Famotidine 20 mg IV Q12H
   9. Propofol 20-100 mcg/kg/min IV DRIP
   5. Fentanyl Citrate 100-200 mcg IV Q2H:PRN
   10. Vancomycin 1000 mg IV Q 12H

2190-03-04 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 43 year old male with recurrent sigmoid diverticulitis
   status-post laproscopic sigmoid colectomy, with fevers, leukocytosis,
   shortness of breath, and tachycardia, taken to the OR today for leak
   around anastamosis, now transfered to ICU for further management
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-3-3**] 10:30 AM
 ARTERIAL LINE - START [**2190-3-3**] 07:00 PM
 BLOOD CULTURED - At [**2190-3-3**] 09:00 PM
    blood c/s 1 of 2 sent
 BLOOD CULTURED - At [**2190-3-3**] 10:08 PM
    2 of 2 sent
 FEVER - 101.8
F - [**2190-3-3**] 08:00 PM
   - pt exutabed, doing well
   - pt developed pleural effusions - stopped IVF, stopped insulin/D10
   - lasix given goal net -1L over 12h per surgery, given lasix 10 IV x2
   overnight
   - fluid cx shows 4+ G(-)R, 2+ G(+)R
   - pt had a temp 101.1, blood cx sent
   Allergies:
   Halothane
   malignant hyper
   Last dose of Antibiotics:
   Vancomycin - [**2190-3-3**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-3-4**] 05:02 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2190-3-3**] 04:32 PM
   Famotidine (Pepcid) - [**2190-3-3**] 09:00 PM
   Fentanyl - [**2190-3-4**] 02:00 AM
   Furosemide (Lasix) - [**2190-3-4**] 02:00 AM
   Morphine Sulfate - [**2190-3-4**] 05:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-4**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38
C (100.4
   HR: 127 (112 - 136) bpm
   BP: 184/86(115) {116/64(79) - 184/95(122)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.3 kg (admission): 101.6 kg
             Total In:
                                                                  4,240 mL
                                                                    261 mL
   PO:
             TF:
   IVF:
                                                                  4,240 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  2,607 mL
                                                                  1,855 mL
   Urine:
                                                                  1,537 mL
                                                                  1,155 mL
   NG:
                                                                    800 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                    220 mL
                                                                    150 mL
   Balance:
                                                                  1,633 mL
                                                                 -1,594 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 35%
   SpO2: 96%
   ABG: 7.44/46/148/29/1
   PaO2 / FiO2: 423
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   344 K/uL
   9.9 g/dL
   118 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   22 mg/dL
   100 mEq/L
   138 mEq/L
   29.7 %
   21.5 K/uL
        [image002.jpg]
                             [**2190-3-2**]  07:00 PM
                             [**2190-3-2**]  07:14 PM
                             [**2190-3-3**]  02:43 AM
                             [**2190-3-3**]  02:51 AM
                             [**2190-3-3**]  05:56 AM
                             [**2190-3-3**]  06:15 AM
                             [**2190-3-3**]  10:00 AM
                             [**2190-3-3**]  03:05 PM
                             [**2190-3-4**]  04:35 AM
   WBC
   11.5
   16.9
   18.5
   21.5
   Hct
   33.4
   36.9
   30.2
   29.7
   Plt
   298
   324
   282
   344
   Cr
   0.9
   1.1
   1.0
   1.1
   TCO2
   26
   29
   28
   28
   Glucose
   151
   139
   119
   113
   110
   69
   89
   118
   Other labs: PT / PTT / INR:13.8/29.8/1.2, ALT / AST:14/41, Alk Phos / T
   Bili:52/1.2, Lactic Acid:1.6 mmol/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   Patient is a 43 year old male with recurrent sigmoid diverticulitis
   status-post laproscopic sigmoid colectomy, with fevers, leukocytosis,
   shortness of breath, and tachycardia, taken to the OR today for leak
   around anastamosis, now transfered to ICU for further management,
   remaining intubated.
   .
   #) Respiratory failure: Patient was kept intubated due to tachypnea
   post-operatively. Suspect this is multifactorial, but large role may be
   due to discomfort and splinting from pain, abdominal distension. He
   also had a large pleural effusion with probable atelectasis and
   prominent vessels with possible over hydration. Now weaned off
   sedation, on 5 peep, 5 pressure support. Good RSBI and tolerating SBT.
   - plan for extubation pending CXR
   .
   #) Sigmoid diverticulitis s/p lap sigmoidectomy and exploratory
   laporatory for leak ([**3-2**]): Two drains in place today for drainage
   after wash-out and repair.
   - Appreciate surgical co-management
   - Antibiotic coverage as noted below
   - Further drain, ostomy management per surgery
   - Pain control with nerve blocks (likely wearing off today), fentanyl
   boluses per surgery; zofran for nausea
   .
   #) Leukocytosis, fevers: Most likely source is intra-abdominal given
   known leak and observed fecal material in peritoneum. Monitoring for
   other possible sites of infection (blood, urine, pneumonia, no
   indwelling lines). Also monitoring for any evidence of evolving sepsis.
   - On vancomycin and zosyn
   - Follow up culture data
   - Monitoring fever curve, WBC trend
   - Monitoring lactate, urine output, BP trend for evidence of evolving
   sepsis
   .
   #) Hypertension: Initially was markedly hypertensive upon arrival to
   ICU, suspect this was secondary to discomfort. Has improved markedly
   after placement on propofol (SBP 120-130).
   -          Monitor trend, holding antihypertensives at present in event
   patient becomes septic.
   #) Tachycardia: persistently sinus tachy even with fluids. ? due to
   poor pain control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-3-2**] 05:41 PM
   18 Gauge - [**2190-3-2**] 05:41 PM
   20 Gauge - [**2190-3-2**] 06:10 PM
   Arterial Line - [**2190-3-3**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
            . Heparin 5000 UNIT SC BID  Order date: [**3-2**] @ 1730
   6. Metoclopramide 10 mg IV Q6H
   2. Insulin  DRIP  goal FS 80-120
   7. Ondansetron 4 mg IV Q6H:PRN nausea
   3. Chlorhexidine Gluconate 0.12% Oral Rinse 15ml [**Hospital1 **]
   8. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   4. Famotidine 20 mg IV Q12H
   9. Propofol 20-100 mcg/kg/min IV DRIP
   5. Fentanyl Citrate 100-200 mcg IV Q2H:PRN
   10. Vancomycin 1000 mg IV Q 12H